US08133995B2
Preparation of N-{4-[4-amino-6-(methoxymethyl)-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoromethyl)phenyl]urea
To a suspension of Intermediate AW (N-{4-[4-amino-7-formyl-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoro-methyl)phenyl]urea (50 mg, 0.1 mmol)) and morpholine (0.01 ml, 0.12 mmol) in dichloroethane (3 ml) was added sodium triacetoxyborohydride (67 mg, 0.31 mmol). The reaction was stirred under N2 at rt for 16 h. The reaction mixture was diluted with CH2Cl2 and subsequently quenched with aqueous saturated NaHCO3. The organic phase was collected, dried (Na2SO4), concentrated and purified via column chromatography (95:5 v/v CH2Cl2-MeOH) to afford 26 mg of the title compound (yield 46%). 1H-NMR (DMSO-d6) 9.32 (s, 1H), 8.96 (d, J=2 Hz, 1H), 8.64 to 8.61 (dd, J=8, 2 Hz, 1H), 7.90 (s, 1H), 7.59 to 7.34 (m, 6H), 4.29 (s, 2H), 3.86 (s, 2H), 3.55 to 3.50 (m, 4H), 3.14 (s, 3H), 2.47-2.41 (m, 4H); MS [M+H]+=573.9; LCMS RT=2.53 min.

reactant | N-{4-[4-amino-7-formyl-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoro-methyl)phenyl]urea | 0.1 mmol, 50 mg | NC1=NC=NN2C1=C(C(=C2C=O)COC)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C23H18F4N6O3
reactant | morpholine | 0.12 mmol, 0.01 ml | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 0.31 mmol, 67 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 3 ml | ClC(C)Cl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-{4-[4-amino-6-(methoxymethyl)-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoromethyl)phenyl]urea | 26 mg, yield 46% | NC1=NC=NN2C1=C(C(=C2CN2CCOCC2)COC)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C27H27F4N7O3
